US07897619B2
Isoquinoline-6-carbohydrazide:
Isoquinoline-6-carboxylic acid (1.2 g, 6.94 mmol) purchased from Gateway Chemical Technology, Inc. was mixed with CDI (1.68 g, 10.4 mmol) in DMF (20 Ml) in a round bottom flask. After the mixture was stirred for 30 minutes at 20° C., anhydrous hydrazine (2 mL) was added and the resulting mixture was stirred at 20° C. for one hour. After removing the solvent at a reduced pressure, the remaining residue was mixed with 20 mL water. After filtration, washing with water and air drying, an off-white solid was obtained as the desired product. LCMS (API-ES) m/z (%): 188.0 (100%, M++H).

reactant | Isoquinoline-6-carboxylic acid | 6.94 mmol, 1.2 g | C1=NC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | CDI | 10.4 mmol, 1.68 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | hydrazine | 2 mL | NN | H4N2
solvent | DMF | CN(C)C=O | C3H7NO
product | Isoquinoline-6-carbohydrazide | C1=NC=CC2=CC(=CC=C12)C(=O)NN | C10H9N3O
